US05166170
2-(2-Aminophenyl)-5-hydroxy-2,3-dihydro-1H-indole
A solution of 5.25 g 2-(2-aminophenyl)-5-methoxy-2,3-dihydro-1H-indole in 115 ml CH2Cl2 was added dropwise to 90.4 ml 1.0M BBr3 in CH2Cl2 at 0° C. The solution was stirred at 0°-5° C. for one hour, and then quenched by dropwise addition of 135 ml water. A total of 400 ml 7.5% NaHCO3 was added dropwise, and the resulting solution was stirred 30 minutes. It was then basified to a pH of ~9 with K2CO3 and extracted with EtOAc. The extracts were washed with saturated NaCl solution, dried (MgSO4), and concentrated to yield 5.10 g solid. Trituration with 5% EtOAc/CH2Cl2 and recrystallization from MeOH/water yielded 1.00 g solid, m.p. 169°-171° C.

reactant | 2-(2-aminophenyl)-5-methoxy-2,3-dihydro-1H-indole | 5.25 g | NC1=C(C=CC=C1)C1NC2=CC=C(C=C2C1)OC | C15H16N2O
reactant | BBr3 | 1.0M, 90.4 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 115 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Aminophenyl)-5-hydroxy-2,3-dihydro-1H-indole | 5.10 g | NC1=C(C=CC=C1)C1NC2=CC=C(C=C2C1)O | C14H14N2O
